US07557112B2
A mixture of 2-(4-chloro-2,5-difluorophenyl)thieno[3,2-d]pyrimidine-4(1H)-one and phosphorus oxychloride was stirred for four hours at 90° C. to give 4-chloro-2-(4-chloro-2,5-difluorophenyl)thieno[3,2-d]pyrimidine.

reactant | 2-(4-chloro-2,5-difluorophenyl)thieno[3,2-d]pyrimidine-4(1H)-one | ClC1=CC(=C(C=C1F)C1=NC(C2=C(N1)C=CS2)=O)F | C12H5ClF2N2OS
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2-(4-chloro-2,5-difluorophenyl)thieno[3,2-d]pyrimidine | ClC=1C2=C(N=C(N1)C1=C(C=C(C(=C1)F)Cl)F)C=CS2 | C12H4Cl2F2N2S
